US07553840B2
Tetrabutylammonium fluoride (5.3 μl, 1.0 M solution in tetrahydrofuran) was added to a solution of 5-(2-formyl-phenyl)-pyridine-2-carbonitrile (110 mg, 0.53 mmol) and trifluoromethyltrimethylsilane (120 μl, 0.81 mmol) in 5 ml THF at 0° C. The formed mixture was warmed up to room temperature and stirred at room temperature for 4 hours. The reaction mixture was then treated with 5 ml of 1N HCl and stirred at room temperature overnight. The product was extracted with ethyl acetate (3×50 ml). The organic layer was separated and dried over sodium sulfate. The organic solvent was evaporated to give 140 mg of 5-[2-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenyl]-pyridine-2-carbonitrile, yield 95%.

reactant | Tetrabutylammonium fluoride | 1.0 M, 5.3 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(2-formyl-phenyl)-pyridine-2-carbonitrile | 0.53 mmol, 110 mg | C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C#N | C13H8N2O
reactant | trifluoromethyltrimethylsilane | 0.81 mmol, 120 μl | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | HCl | 1N, 5 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-[2-(2,2,2-trifluoro-1-hydroxy-ethyl)-phenyl]-pyridine-2-carbonitrile | 140 mg, yield 95% | FC(C(O)C1=C(C=CC=C1)C=1C=CC(=NC1)C#N)(F)F | C14H9F3N2O
